US07919621B2
Step 1: 7-[3-Fluoro-5-(4-methoxy-tetrahydro-pyran-4-yl)-phenoxymethyl]-1,1-dimethyl-1,2-dihydro-[1,2,4]triazolo[4,3-a]quinoline (6a)
{6-[3-Fluoro-5-(4-methoxy-tetrahydro-pyran-4-yl)-phenoxymethyl]-quinolin-2-yl}-hydrazine (36 mg, 0.09 mmol) was suspended in EtOH (2 mL). Acetone (0.01 mL, 0.18 mmol) was added, and the reaction was heated at 75° C. overnight. The mixture was concentrated and purified by silica gel chromatography to give the desired product, 6a.

reactant | {6-[3-Fluoro-5-(4-methoxy-tetrahydro-pyran-4-yl)-phenoxymethyl]-quinolin-2-yl}-hydrazine | 0.09 mmol, 36 mg | FC=1C=C(OCC=2C=C3C=CC(=NC3=CC2)NN)C=C(C1)C1(CCOCC1)OC | C22H24FN3O3
reactant | Acetone | 0.18 mmol, 0.01 mL | CC(=O)C | C3H6O
solvent | EtOH | 2 mL | CCO | C2H6O
product | 7-[3-Fluoro-5-(4-methoxy-tetrahydro-pyran-4-yl)-phenoxymethyl]-1,1-dimethyl-1,2-dihydro-[1,2,4]triazolo[4,3-a]quinoline | FC=1C=C(OCC=2C=C3C=CC=4N(C3=CC2)C(NN4)(C)C)C=C(C1)C1(CCOCC1)OC | C25H28FN3O3
